2106-11-16 07:29:00 Physician Resident Progress Note
Chief Complaint: Dyspnea
   24 Hour Events:
 CARDIAC CATH - At [**2106-11-15**] 09:43 PM
 PA CATHETER - START [**2106-11-15**] 09:45 PM
   - Got 40mg IV lasix then started on Lasix gtt at 5mg/hour.
   Allergies:
   Iodine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2106-11-16**] 02:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-11-16**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98.1
   HR: 80 (79 - 84) bpm
   BP: 88/51(62) {86/42(53) - 105/77(81)} mmHg
   RR: 20 (18 - 27) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 11 (7 - 14)mmHg
   PAP: (71 mmHg) / (24 mmHg)
   CO/CI (Fick): (4.5 L/min) / (2.7 L/min/m2)
   Mixed Venous O2% Sat: 59 - 65
   Total In:
                                                                     22 mL
   PO:
   TF:
   IVF:
                                                                     22 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                    360 mL
   Urine:
                                                                    200 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -200 mL
                                                                   -338 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 92%
   ABG: ///22/
   Physical Examination
   General appearance: Elderly female, mildly tachypneic with speech.
   HEENT: Dry mucous membranes, PERRL, EOMI.
   Neck: JVD to just below jaw when upright.  R IJ PA cath in place.
   Chest: Diminished breath sounds at bilateral apices R>L, mild rhonchi
   above L>R.
   Cardiac: +Prominant RV impulse.  S1, loud P2 with fixed split S2 , ?R
   sided S3 gallop.  Regular rate. [**2-19**] SM at LLSB.
   Abdomen: +Pulsatile liver.  Soft, non tender currently, slightly
   distended though tympanic throughout without clear evidence of
   ascites.  Spleen tip not clearly palpable but.
   Back: No CVA tenderness.  [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] site benign.
   Extremities: Trace to 1+ LE pitting edema, digits slightly darker in
   color without evidence of ulceration.
   Neuro:  CN II-[**Doctor First Name **] intact, strength 5/5 in UEs and LEs.  No asterixis.
   Psych:alert, oriented, appropiate
   Labs / Radiology
   257 K/uL
   13.2 g/dL
   112 mg/dL
   1.6 mg/dL
   22 mEq/L
   3.9 mEq/L
   46 mg/dL
   112 mEq/L
   145 mEq/L
   43.4 %
   13.5 K/uL
        [image002.jpg]
                             [**2106-11-15**]  10:50 PM
                             [**2106-11-15**]  10:52 PM
                             [**2106-11-15**]  10:53 PM
                             [**2106-11-16**]  12:00 AM
                             [**2106-11-16**]  12:21 AM
                             [**2106-11-16**]  01:48 AM
   WBC
   13.5
   Hct
   44
   44
   44
   36
   36
   43.4
   Plt
   257
   Cr
   1.6
   Glucose
   112
   Other labs: PT / PTT / INR:17.3/48.3/1.5, ALT / AST:22/19, Alk Phos / T
   Bili:78/0.7, Albumin:3.2 g/dL, LDH:210 IU/L, Ca++:7.8 mg/dL, Mg++:1.8
   mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 HYPOXEMIA
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
   79F with hypertension and polycythemia [**Doctor First Name **], transferred to [**Hospital1 5**] for
   workup of new pulmonary hypertension with RV failure, now transferred
   to MICU for diuresis and further management under monitored setting.
   .
   # Pulmonary hypertension and RV failure: Differential includes Type I
   PAH (primary process, though would not expect at this age; related to
   [**Last Name (NamePattern4) 9725**] or possibly portopulmonary hypertension given abdominal
   findings, scleroderma or other rheumatologic disorder given Raynaud's,
   HIV also a consideration), and Type III PH due to chronic
   thromboembolic disease.  PH due to LV dysfunction not supported by echo
   findings; does not appear to have significant primary lung parenchymal
   disease to explain hypertension.  No known history of L->R shunting and
   would be old to present as such now.  OSA alone very unlikely to cause
   this degree of PA HTN.  V/Q scan unlikely to be helpful with effusions
   and difficulty breathing.
   - f/u final report of PA cath hemodynamics.
   - f/u HIV, [**Doctor First Name **], ANCA, anticentromere Ab.
   - Liver eval as below.
   - Hold home CCB.
   - Diuresis: Goal today negative 1L, will likely need -100ccs/hr ( Put
   out 140 ccs to 40mg, then 40ccs/hr to 5mg/hr ).  We can titrate to a
   drop in her CI.  If she stops making urine, can consider starting
   dobutamine for support.
   - Vasodilators: consider start of epoprostenol +/- dobutamine if still
   with borderline O2 sats with diuresis.
   - Would benefit from coumadin in long term but risks outweigh risks
   presentally given ? varices.
   .
   # Hypoxemia. Requiring non-rebreather to maintain O2 sats.  Treated for
   CAP without improvement, Receiving levofloxacin 750 mg QOD (with
   current GFR), completed course yesterday.  Also appears to have some
   pulmonary edema which may be due to RV overload stressing LV and
   cardiac output.  Could consider ASD with now R->L shunting, age not
   fitting.
   - Diurese now with lasix gtt; consider vasodilators and inotropes.
   - O2 to maintain sats > 92% as PA HTN may be worsened in setting of
   hypoxic vasoconstriction.
   - Patient DNI.
   - No further antibiotics planned.
   .
   # ?Portal hypertension.  Evidence is primarily from a lung CT which
   showed ascites, splenomegaly and possible ascites.  Unclear how much of
   this can be explained by underlying process. Ascites could be explained
   by R heart failure, but unclear if splenomegaly would also be seen
   (though splenomegaly likely could be explained by chronic [**Last Name (NamePattern4) 9725**]).  If
   cirrhosis present, may explain pulmonary hypertension as well.  INR
   elevated to 1.5 at admission without explanation.  Albumin 3.6 (though
   2.9 on admission).  Transaminases normal and iron level normal
   (hemochromatosis unlikely).
   - Dedicated abdominal ultrasound.
   - Fe studies, hep serologies.
   - Consider formal liver involvement pending above findings.
   - Other workup based on above findings.
   .
   # Acute on chronic renal failure: baseline reportedly ~1.0, has been in
   the 1.2-1.5 range here and at OSH.  Mild proteinuria and abnormal
   microscopy with RBCs and WBCs. Today worsened to 1.6 in the setting of
   diuresis, may be malperfused.
   - Obtain baseline numbers from [**Hospital1 1711**].
   - Check SPEP/UPEP.
   - follow UOP
   - consider renal input.
   .
   # Polycythemia [**Doctor First Name **]: patient was seen by OSH hematologist who
   recommended that hydroxyurea be restarted at 500 mg QD; if Hct contiune
   to rise on QD dosing recommend increase to [**Hospital1 **].
   - cont ASA 81 mg
   - continue hydroxyurea for now
   .
   # HTN. At baseline takes nifedipine 30 mg CR and toprol XL 50 mg.
   - holding nifedepine and metoprolol.
   - Diuresing with care as above.
   .
   # FEN: low Na, fluid restrict
   # Prophylaxis: SQH and consider coumadin, bowel regimen PRN, PPI (takes
   at home)
   # Access: PIV
   # Communication: with patient; son [**Name (NI) 1319**] and daughter in law [**Name (NI) 9726**]
   [**Telephone/Fax (1) 9727**]
   # Code status: DNR/I, confirmed with patient on arrival on [**2106-11-14**] and
   reconfirmed with MICU admission.
   # Disposition: ICU while PA cath in place.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PA Catheter - [**2106-11-15**] 09:45 PM
   18 Gauge - [**2106-11-15**] 09:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   I would also add that as a trans-atrial or trans-ventricular defect
   could explain her symptoms, we will order a repeat ECHO, this time with
   a bubble study.  We will give Vitamin K and assess for improvement in
   INR, as this could give us an idea of the degree of her liver
   impairment.  We will also contact the patient
s PCP.
   [**Name10 (NameIs) 948**] Protected Section Addendum Entered By:[**Name (NI) 1144**] [**Last Name (NamePattern1) 7297**], MD
   on:[**2106-11-16**] 11:15 ------

2106-11-17 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Started Dobutamine because decreased CI/SVR with lasix, CI/SVR
   improved with dobut but PAP increased, stable overnight, has required
   nonrebreather to keep O2sats in low 90%
   - ECHO bubble: cor pulmonale; no intracardiac shunt
   - CTA from OSH obtained and in system -> unofficial read is no PE, all
   other abnormalities noted on non-contrast CT chest
   - Abdominal u/s pending
   - re varices on CT, radiology recommended an u/s to futher eval
   - rheum labs negative, HIV negative
   Allergies:
   Iodine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Dobutamine - 2 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-11-16**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-11-17**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (99
   HR: 83 (67 - 92) bpm
   BP: 106/54(67) {87/47(61) - 113/65(75)} mmHg
   RR: 19 (19 - 30) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 7 (6 - 17)mmHg
   PAP: (80 mmHg) / (25 mmHg)
   PCWP: 11 (11 - 11) mmHg
   CO/CI (Fick): (5 L/min) / (3 L/min/m2)
   Mixed Venous O2% Sat: 61 - 70
   Total In:
                                                                    170 mL
                                                                     84 mL
   PO:
   TF:
   IVF:
                                                                    170 mL
                                                                     84 mL
   Blood products:
   Total out:
                                                                  2,210 mL
                                                                  1,150 mL
   Urine:
                                                                  2,210 mL
                                                                  1,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,040 mL
                                                                 -1,066 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 92%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   209 K/uL
   13.3 g/dL
   95 mg/dL
   1.6 mg/dL
   28 mEq/L
   3.3 mEq/L
   46 mg/dL
   108 mEq/L
   146 mEq/L
   42
   12.0 K/uL
        [image002.jpg]
                             [**2106-11-15**]  10:50 PM
                             [**2106-11-15**]  10:52 PM
                             [**2106-11-15**]  10:53 PM
                             [**2106-11-16**]  12:00 AM
                             [**2106-11-16**]  12:21 AM
                             [**2106-11-16**]  01:48 AM
                             [**2106-11-16**]  03:08 PM
                             [**2106-11-16**]  10:37 PM
                             [**2106-11-17**]  04:45 AM
                             [**2106-11-17**]  04:54 AM
   WBC
   13.5
   13.6
   12.0
   Hct
   44
   44
   44
   36
   36
   43.4
   44.2
   42
   42.3
   42
   Plt
   257
   240
   209
   Cr
   1.6
   1.6
   1.6
   Glucose
   112
   92
   95
   Other labs: PT / PTT / INR:16.7/33.4/1.5, ALT / AST:22/19, Alk Phos / T
   Bili:78/0.7, Differential-Neuts:88.0 %, Lymph:7.1 %, Mono:2.3 %,
   Eos:2.0 %, Albumin:3.2 g/dL, LDH:210 IU/L, Ca++:8.1 mg/dL, Mg++:1.6
   mg/dL, PO4:4.0 mg/dL
   Fluid analysis / Other labs:  [**Doctor First Name **], ANCA, anticentromere Ab negative,
   HIV negative
   Imaging: ECHO bubble: cor pulmonale; no intracardiac shunt
   Assessment and Plan
   79F with hypertension and polycythemia [**Doctor First Name **], transferred to [**Hospital1 5**] for
   workup of new pulmonary hypertension with RV failure, now transferred
   to MICU for diuresis and further management under monitored setting.
   # Pulmonary hypertension and RV failure.  Newly diagnosed, with
   symptoma x 1 month, however  RV dilation and hypertropy suggest longer
   chronicity.  Differential includes PAH (primary process, though would
   not expect at this age; related to [**Last Name (NamePattern4) 9725**] or possibly portopulmonary
   hypertension given abdominal findings) Rheum labs negative making
   scleroderma or other rheumatologic disorder given Raynaud's unlikely,
   HIV negative.  Also consider PH due to chronic thromboembolic disease
   but no evidence on CTA.  Unlikely due to LV dysfunction given echo
   findings; does not appear to have significant primary lung parenchymal
   disease to explain hypertension.  No known history of L->R shunting and
   would be old to present as such now.  ECHO bubble negative.  OSA alone
   very unlikely to cause this degree of PA HTN.
   - Await official report of PA cath hemodynamics.
   - Abdominal u/s with dopplers
   - Hold home CCB.
   - Making adequate urine on lasix gtt
   - If still with borderline O2 sats with diuresis and dobutamine can
   start epoprostenol.
   - Would benefit from coumadin in long term if no evidence of bleeding
   (care given ?portal hypertension and liver dysfunction).
   # Hypoxemia.  Likely explained by VQ mismatch in setting of severe
   pulmonary hypertension; also has bilateral effusions and atelectasis.
   Was treated for CAP though not much evidence of this on imaging, now
   s/p antibiotic course.  Also appears to have some pulmonary edema which
   may be due to RV overload stressing LV and cardiac output.  ECHO
   negative for  ASD or evidence of R->L shunting.
   - Pulmonary hypertension workup as above.
   - Diurese now with lasix gtt; consider vasodilators and inotropes.
   - O2 to maintain sats > 92% as PA HTN may be worsened in setting of
   hypoxic vasoconstriction.
   - Patient DNI.
   # Acute on chronic renal failure: baseline reportedly ~1.0, has been in
   the 1.2-1.5 range here and at OSH.  Mild proteinuria and abnormal
   microscopy with RBCs and WBCs. Did receive contrast at OSH (though
   elevation present prior to scan).  Acute change differential includes
   hypoperfusion from heart failure, ATN from a number of sources (which
   was thought to be the case at OSH).  Relatively stable since admission.
   - follow UOP
   - trend cr
   # Hypernatremia: In setting of diuresis with lasix gtt.
   - Give 500mL D5W and check PM lytes
   # Polycythemia [**Doctor First Name **]: patient was seen by OSH hematologist who
   recommended that hydroxyurea be restarted at 500 mg QD; if Hct contiune
   to rise on QD dosing recommend increase to [**Hospital1 **].
   - cont ASA 81 mg
   - continue hydroxyurea for now
   # HTN. At baseline takes nifedipine 30 mg CR and toprol XL 50 mg.
   - holding nifedepine and metoprolol.
   - Diuresing with care as above.
   # ?Portal hypertension.  Evidence on CT chest.  Has ascites and
   splenomegaly with ?varices.  Ascites could be explained by R heart
   failure, but unclear if splenomegaly would also be seen (though
   splenomegaly likely could be explained by chronic [**Last Name (NamePattern4) 9725**]).  If
   cirrhosis present, may explain pulmonary hypertension as well.  INR
   elevated to 1.5 at admission without explanation.  Albumin 3.6 (though
   2.9 on admission).  Transaminases normal.  Hepatitis panel negative, Fe
   studies normal.
   - Dedicated abdominal ultrasound pending
   # FEN: low Na, fluid restrict
   # Prophylaxis: SQH and consider coumadin, bowel regimen PRN, PPI (takes
   at home)
   # Access: PIV
   # Communication: with patient; son [**Name (NI) 1319**] and daughter in law [**Name (NI) 9726**]
   [**Telephone/Fax (1) 9727**]
   # Code status: DNR/I, confirmed with patient on arrival on [**2106-11-14**] and
   reconfirmed with MICU admission.
   # Disposition: ICU while PA cath in place.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PA Catheter - [**2106-11-15**] 09:45 PM
   18 Gauge - [**2106-11-15**] 09:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2106-11-18 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Had ~20 beats of NSVT, completely asymptomatic
   - PAP's still ranging in 70-80's. CI's 3, 2.3, 2.4 through the day. SVR
   924, 1018, 1245.
   - UOP -3L for the day, making 300-400 cc/hr
   - Misunderstanding about the abd u/s, so going to get it tomorrow
   - PM lytes: 138/3.4  99/28  39/1.4 (improved from 1.6)
   - By MN still on Dobutamine 2mcg/kg/min and Lasix 5mg/hr
   - Didn't get chance to talk to [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 9788**], pulmonologist
   - Dr. [**First Name (STitle) **] met with family and told pt that she may/probably will die.
   She requested Ativan afterwards.
   - UPEP negative, SPEP negative
   - Pulm recs sending TSH, anti-scl 70 --> ordered for [**10-18**] am labs
   Allergies:
   Iodine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Dobutamine - 2 mcg/Kg/min
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-11-18**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.3
C (99.1
   HR: 85 (85 - 98) bpm
   BP: 89/44(55) {86/44(55) - 122/68(80)} mmHg
   RR: 21 (19 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.3 kg (admission): 59 kg
   Height: 65 Inch
    CVP: 7 (6 - 16)mmHg
   PAP: (80 mmHg) / (28 mmHg)
   PCWP: 11 (11 - 11) mmHg
   CO/CI (Fick): (3.2 L/min) / (1.9 L/min/m2)
   Mixed Venous O2% Sat: 61 - 68
   Total In:
                                                                    911 mL
                                                                    102 mL
   PO:
                                                                    400 mL
   TF:
   IVF:
                                                                    511 mL
                                                                    102 mL
   Blood products:
   Total out:
                                                                  3,680 mL
                                                                    775 mL
   Urine:
                                                                  3,680 mL
                                                                    775 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,769 mL
                                                                   -673 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Non-rebreather
   SpO2: 96%
   ABG: ///31/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   215 K/uL
   14.1 g/dL
   104 mg/dL
   1.5 mg/dL
   31 mEq/L
   3.7 mEq/L
   39 mg/dL
   105 mEq/L
   145 mEq/L
   43
   13.8 K/uL
        [image002.jpg]
                             [**2106-11-16**]  01:48 AM
                             [**2106-11-16**]  03:08 PM
                             [**2106-11-16**]  10:37 PM
                             [**2106-11-17**]  04:45 AM
                             [**2106-11-17**]  04:54 AM
                             [**2106-11-17**]  03:02 PM
                             [**2106-11-17**]  05:00 PM
                             [**2106-11-17**]  08:59 PM
                             [**2106-11-18**]  04:41 AM
                             [**2106-11-18**]  04:53 AM
   WBC
   13.5
   13.6
   12.0
   13.8
   Hct
   43.4
   44.2
   42
   42.3
   42
   42.3
   44
   46.0
   43
   Plt
   257
   240
   209
   215
   Cr
   1.6
   1.6
   1.6
   1.4
   1.5
   Glucose
   112
   92
   95
   218
   104
   Other labs: PT / PTT / INR:16.7/34.9/1.5, ALT / AST:22/19, Alk Phos / T
   Bili:78/0.7, Differential-Neuts:88.0 %, Lymph:7.1 %, Mono:2.3 %,
   Eos:2.0 %, Lactic Acid:1.3 mmol/L, Albumin:3.2 g/dL, LDH:210 IU/L,
   Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Fluid analysis / Other labs: UPEP negative, SPEP negative
   Microbiology: Urine culture negative
   Assessment and Plan
   79F with hypertension and polycythemia [**Doctor First Name **], transferred to [**Hospital1 5**] for
   workup of new pulmonary hypertension with RV failure, now transferred
   to MICU for diuresis and further management under monitored setting.
   # Pulmonary hypertension and RV failure.  Newly diagnosed, with
   symptoms x 1 month, however RV dilation and hypertropy suggest longer
   chronicity.  Unclear etiology.  Awaiting abdominal u/s for
   hepato-pulmonary shunt.  No evidence of intracardiac shunt or LV
   failure given negative ECHO bubble, no intrapulmonary shunt or PE
   evidenced on CTA chest.  Negative [**Doctor First Name **], ANCA, anti centromere as well as
   SPEP and UPEP, awaiting TSH, anti-scl 70.  HIV negative.
   - Stable on dobutamine and lasix gtt
   - Stop dobutamine and trial of sildenofil today
   - Abdominal u/s with dopplers
   - Hold home CCB.
   - Making adequate urine on lasix gtt
   - If still with borderline O2 sats with diuresis and dobutamine can
   start epoprostenol.
   - Would benefit from coumadin in long term if no evidence of bleeding
   (care given ?portal hypertension and liver dysfunction).
   # Hypoxemia.  Likely explained by VQ mismatch in setting of severe
   pulmonary hypertension; also has bilateral effusions and atelectasis.
   Was treated for CAP though not much evidence of this on imaging, now
   s/p antibiotic course.  Pulmonary edema improving with diuresis, likely
   from RV overload stressing LV and cardiac output.  ECHO negative for
   ASD or evidence of R->L shunting.
   - Diurese now with lasix gtt; consider vasodilators and inotropes.
   - O2 to maintain sats > 92% as PA HTN may be worsened in setting of
   hypoxic vasoconstriction.
   - Patient DNI.
   # Acute on chronic renal failure: baseline reportedly ~1.0, has been in
   the 1.2-1.5 range here and at OSH.  Mild proteinuria and abnormal
   microscopy with RBCs and WBCs. Did receive contrast at OSH (though
   elevation present prior to scan).  Acute change differential includes
   hypoperfusion from heart failure, ATN from a number of sources (which
   was thought to be the case at OSH).  Relatively stable since admission.
   - follow UOP
   - trend cr
   # Hypernatremia: Resolved with D5W with diuresis
   - PM lytes
   # Polycythemia [**Doctor First Name **]: patient was seen by OSH hematologist who
   recommended that hydroxyurea be restarted at 500 mg QD; if Hct contiune
   to rise on QD dosing recommend increase to [**Hospital1 **].
   - cont ASA 81 mg
   - continue hydroxyurea for now
   # HTN. At baseline takes nifedipine 30 mg CR and toprol XL 50 mg.
   - holding nifedepine and metoprolol.
   - Diuresing with care as above.
   # ?Portal hypertension.  Evidence on CT chest.  Has ascites and
   splenomegaly with ?varices.  Ascites could be explained by R heart
   failure, but unclear if splenomegaly would also be seen (though
   splenomegaly likely could be explained by chronic [**Last Name (NamePattern4) 9725**]).  If
   cirrhosis present, may explain pulmonary hypertension as well.  INR
   elevated to 1.5 at admission without explanation.  Albumin 3.6 (though
   2.9 on admission).  Transaminases normal.  Hepatitis panel negative, Fe
   studies normal.
   - Dedicated abdominal ultrasound pending
   # FEN: regular diet, replete lytes as needed
   # Prophylaxis: SQH and consider coumadin, bowel regimen PRN, PPI (takes
   at home)
   # Access: PIV
   # Communication: with patient; son [**Name (NI) 1319**] and daughter in law [**Name (NI) 9726**]
   [**Telephone/Fax (1) 9727**]
   # Code status: DNR/I, confirmed with patient on arrival on [**2106-11-14**] and
   reconfirmed with MICU admission.
   # Disposition: ICU while PA cath in place.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PA Catheter - [**2106-11-15**] 09:45 PM
   18 Gauge - [**2106-11-15**] 09:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2106-11-19 07:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - some improvement in PA pressures with 10mg of sildenafil.  Increased
   dose to 20mg in PM.
   - -1.5L at 5pm, but creatinine stable, so continued diuresis for now.
   - requiring non-rebreather for most of the day.
   - abdominal u/s (prelim report): Hepatosplenomegaly, dilated hepatic
   veins, normal hepatic architecture, the constellation of findings can
   be seen in the setting of right-sided heart failure. Right pleural
   effusion. Non-obstructing renal calculi.
   Allergies:
   Iodine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Dobutamine - 2 mcg/Kg/min
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-11-19**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37
C (98.6
   HR: 84 (77 - 99) bpm
   BP: 94/48(60) {87/34(47) - 120/84(92)} mmHg
   RR: 24 (19 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 56.9 kg (admission): 59 kg
   Height: 65 Inch
    CVP: 6 (4 - 14)mmHg
   PAP: (74 mmHg) / (24 mmHg)
   CO/CI (Fick): (4.8 L/min) / (2.9 L/min/m2)
   Mixed Venous O2% Sat: 66 - 67
   Total In:
                                                                    629 mL
                                                                    152 mL
   PO:
                                                                    160 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    469 mL
                                                                     92 mL
   Blood products:
   Total out:
                                                                  2,755 mL
                                                                    590 mL
   Urine:
                                                                  2,755 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,126 mL
                                                                   -438 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 96%
   ABG: ///34/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   192 K/uL
   12.9
   100 mg/dL
   1.3 mg/dL
   34 mEq/L
    3.7 mEq/L
   36 mg/dL
   102 mEq/L
   145 mEq/L
   41.8 %
   11.6 K/uL
        [image002.jpg]
                             [**2106-11-16**]  10:37 PM
                             [**2106-11-17**]  04:45 AM
                             [**2106-11-17**]  04:54 AM
                             [**2106-11-17**]  03:02 PM
                             [**2106-11-17**]  05:00 PM
                             [**2106-11-17**]  08:59 PM
                             [**2106-11-18**]  04:41 AM
                             [**2106-11-18**]  04:53 AM
                             [**2106-11-18**]  03:56 PM
                             [**2106-11-19**]  03:54 AM
   WBC
   12.0
   13.8
   11.6
   Hct
   42
   42.3
   42
   42.3
   44
   46.0
   43
   41.8
   Plt
   [**Telephone/Fax (3) 9808**]
   Cr
   1.6
   1.4
   1.5
   1.4
   1.3
   Glucose
   95
   [**Telephone/Fax (3) 9809**]00
   Other labs: PT / PTT / INR:16.4/40.1/1.5, ALT / AST:22/19, Alk Phos / T
   Bili:78/0.7, Differential-Neuts:88.0 %, Lymph:7.1 %, Mono:2.3 %,
   Eos:2.0 %, Lactic Acid:1.3 mmol/L, Albumin:3.2 g/dL, LDH:210 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Imaging: Abdominal u/s (prelim report): Hepatosplenomegaly, dilated
   hepatic veins, normal hepatic architecture, the constellation of
   findings can be seen in the setting of right-sided heart failure. Right
   pleural effusion. Non-obstructing renal calculi.
   Assessment and Plan
   79F with hypertension and polycythemia [**Doctor First Name **], transferred to [**Hospital1 5**] for
   workup of new pulmonary hypertension with RV failure, now transferred
   to MICU for diuresis and further management under monitored setting.
   # Pulmonary hypertension and RV failure.  Newly diagnosed, with
   symptoms x 1 month, however RV dilation and hypertropy suggest longer
   chronicity.  Unclear etiology.  Abdominal u/s without comment on
   hepato-pulmonary shunt.  No evidence of intracardiac shunt or LV
   failure given negative ECHO bubble, no intrapulmonary shunt or PE
   evidenced on CTA chest.  Negative [**Doctor First Name **], ANCA, anti centromere as well as
   SPEP and UPEP, awaiting TSH, anti-scl 70.  HIV negative.  Sildenofil
   started yesterday.
   - Wean dobutamine then lasix gtt
   - Continue sildenofil today 20mg, and monitor cardiac indices
   - Hold home CCB.
   - Making adequate urine on lasix gtt
   - If still with borderline O2 sats with diuresis and dobutamine can
   start epoprostenol.
   # Hypoxemia.  Likely explained by VQ mismatch in setting of severe
   pulmonary hypertension; also has bilateral effusions and atelectasis.
   Was treated for CAP though not much evidence of this on imaging, now
   s/p antibiotic course.  Pulmonary edema improving with diuresis, likely
   from RV overload stressing LV and cardiac output.  ECHO negative for
   ASD or evidence of R->L shunting.
   - Wean lasix gtt
   - O2 to maintain sats > 92% as PA HTN may be worsened in setting of
   hypoxic vasoconstriction.
   - Patient DNI.
   # Acute on chronic renal failure: baseline reportedly ~1.0, has been in
   the 1.2-1.5 range here and at OSH.  Mild proteinuria and abnormal
   microscopy with RBCs and WBCs. Did receive contrast at OSH (though
   elevation present prior to scan).  Acute change differential includes
   hypoperfusion from heart failure, ATN from a number of sources (which
   was thought to be the case at OSH).  Total LOS net negative over 7L.
   Relatively stable since admission.
   - follow UOP
   - trend cr daily
   # Polycythemia [**Doctor First Name **]: patient was seen by OSH hematologist who
   recommended that hydroxyurea be restarted at 500 mg QD; if Hct contiune
   to rise on QD dosing recommend increase to [**Hospital1 **].
   - cont ASA 81 mg
   - hold hydroxyurea given plt ct <200
   # HTN. At baseline takes nifedipine 30 mg CR and toprol XL 50 mg.
   - holding nifedepine and metoprolol.
   - Diuresing with care as above.
   # Portal hypertension.  Evidence on CT chest.  Has ascites and
   splenomegaly with ?varices.  Ascites could be explained by R heart
   failure, but unclear if splenomegaly would also be seen (though
   splenomegaly likely could be explained by chronic [**Last Name (NamePattern4) 9725**]).  If
   cirrhosis present, may explain pulmonary hypertension as well.  INR
   elevated to 1.5 at admission without explanation.  Albumin 3.6 (though
   2.9 on admission).  Transaminases normal.  Hepatitis panel negative, Fe
   studies normal.
   - Dedicated abdominal ultrasound pending
   # FEN: regular diet, replete lytes as needed
   # Prophylaxis: SQH, bowel regimen PRN, PPI (takes at home)
   # Access: PIV, Swan
   - D/c swan today
   # Communication: with patient; son [**Name (NI) 1319**] and daughter in law [**Name (NI) 9726**]
   [**Telephone/Fax (1) 9727**]
   # Code status: DNR/I, confirmed with patient on arrival on [**2106-11-14**] and
   reconfirmed with MICU admission.
   - palliative care and SW consult
   # Disposition: ICU while PA cath in place.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PA Catheter - [**2106-11-15**] 09:45 PM
   18 Gauge - [**2106-11-15**] 09:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2106-11-20 06:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - dobutamine weaned off with CO/CI down to 3.2/2, SVR 1268
   - lasix weaned off, continued good UOP, PO lasix started at 40mg
   Allergies:
   Iodine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-11-19**] 09:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-11-20**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.3
C (97.3
   HR: 93 (80 - 101) bpm
   BP: 96/49(60) {81/44(55) - 108/59(79)} mmHg
   RR: 25 (17 - 28) insp/min
   SpO2: 80%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 56.9 kg (admission): 59 kg
   Height: 65 Inch
    CVP: 15 (3 - 15)mmHg
   PAP: (84 mmHg) / (33 mmHg)
   CO/CI (Fick): (3.2 L/min) / (2 L/min/m2)
   Mixed Venous O2% Sat: 59 - 59
   Total In:
                                                                    554 mL
                                                                    180 mL
   PO:
                                                                    360 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    194 mL
   Blood products:
   Total out:
                                                                  2,010 mL
                                                                    380 mL
   Urine:
                                                                  2,010 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,456 mL
                                                                   -200 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 80%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   192 K/uL
   12.9
   100 mg/dL
   1.2 mg/dL
   34 mEq/L
   4.2 mEq/L
   35 mg/dL
   102 mEq/L
   145 mEq/L
   41.8 %
   11.6 K/uL
        [image002.jpg]
                             [**2106-11-17**]  04:45 AM
                             [**2106-11-17**]  04:54 AM
                             [**2106-11-17**]  03:02 PM
                             [**2106-11-17**]  05:00 PM
                             [**2106-11-17**]  08:59 PM
                             [**2106-11-18**]  04:41 AM
                             [**2106-11-18**]  04:53 AM
                             [**2106-11-18**]  03:56 PM
                             [**2106-11-19**]  03:54 AM
                             [**2106-11-19**]  03:15 PM
   WBC
   12.0
   13.8
   11.6
   Hct
   42.3
   42
   42.3
   44
   46.0
   43
   41.8
   Plt
   [**Telephone/Fax (3) 9808**]
   Cr
   1.6
   1.4
   1.5
   1.4
   1.3
   1.2
   Glucose
   95
   [**Telephone/Fax (3) 9809**]00
   Other labs: PT / PTT / INR:16.4/40.1/1.5, ALT / AST:22/19, Alk Phos / T
   Bili:78/0.7, Differential-Neuts:88.0 %, Lymph:7.1 %, Mono:2.3 %,
   Eos:2.0 %, Lactic Acid:1.3 mmol/L, Albumin:3.2 g/dL, LDH:210 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 HEART FAILURE, RIGHT, ISOLATED (COR PULMONALE)
 HYPERTENSION, BENIGN
 IMPAIRED SKIN INTEGRITY
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOXEMIA
 CIRRHOSIS OF LIVER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPOXEMIA
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
   79F with hypertension and polycythemia [**Doctor First Name **], transferred to [**Hospital1 5**] for
   workup of new pulmonary hypertension with RV failure, now transferred
   to MICU for diuresis and further management under monitored setting.
   # Pulmonary hypertension and RV failure.  Newly diagnosed, with
   symptoms x 1 month, however RV dilation and hypertropy suggest longer
   chronicity.  Unclear etiology.  Abdominal u/s without comment on
   hepato-pulmonary shunt.  No evidence of intracardiac shunt or LV
   failure given negative ECHO bubble, no intrapulmonary shunt or PE
   evidenced on CTA chest.  Negative [**Doctor First Name **], ANCA, anti centromere as well as
   SPEP and UPEP,TSH slightly high but free T4 normal, awaiting anti-scl
   70.  HIV negative.  Sildenofil started 2 d ago.  Dobutamine stopped
   with some worsening in objective funciton.  Swan pulled [**11-19**].  Lasix
   gtt stopped and changed to PO.
   - Continue sildenofil 20 TID
   - Hold home CCB.
   # Hypoxemia.  Likely explained by VQ mismatch in setting of severe
   pulmonary hypertension; also has bilateral effusions and atelectasis.
   S/p antibiotic course for CAP.  Respiratory status improved with
   aggressive diuresis.  ECHO negative for ASD or evidence of R->L
   shunting.
   - Continue PO lasix and monitor UOP, if worsening hypoxia can increase
   lasix
   - O2 to maintain sats > 88% as PA HTN may be worsened in setting of
   hypoxic vasoconstriction.
   - Patient DNI.
   # Acute on chronic renal failure: baseline reportedly ~1.0, has been in
   the 1.2-1.5 range here and at OSH.  Mild proteinuria and abnormal
   microscopy with RBCs and WBCs. Did receive contrast at OSH (though
   elevation present prior to scan).  Acute change differential includes
   hypoperfusion from heart failure, ATN from a number of sources (which
   was thought to be the case at OSH).  Total LOS net negative over 7L.
   Relatively stable since admission.
   - follow UOP
   - trend cr daily
   # Polycythemia [**Doctor First Name **]: patient was seen by OSH hematologist who
   recommended that hydroxyurea be restarted at 500 mg QD; if Hct contiune
   to rise on QD dosing recommend increase to [**Hospital1 **].
   - cont ASA 81 mg
   - hold hydroxyurea given plt ct <200
   # Hepatosplenomegaly: Also with ascites.  Likley from R heart
   failure.    INR elevated to 1.5 at admission without explanation.
   Albumin 3.6 (though 2.9 on admission).  Transaminases normal.
   Hepatitis panel negative, Fe studies normal.
   # HTN. At baseline takes nifedipine 30 mg CR and toprol XL 50 mg.
   - holding nifedepine and metoprolol.
   # FEN: regular diet, replete lytes as needed
   # Prophylaxis: SQH, bowel regimen PRN, PPI (takes at home)
   # Access: PIV, Cordis
   - D/c cordis today
   # Communication: with patient; son [**Name (NI) 1319**] and daughter in law [**Name (NI) 9726**]
   [**Telephone/Fax (1) 9727**]
   # Code status: DNR/I, confirmed with patient on arrival on [**2106-11-14**] and
   reconfirmed with MICU admission.
   - palliative care and SW consult
   # Disposition: ICU while PA cath in place.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PA Catheter - [**2106-11-15**] 09:45 PM
   18 Gauge - [**2106-11-15**] 09:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:
   ------ Protected Section ------
   I saw and examined this pt, and was physically present with the ICU
   team for the key portions of services provided. I agree with the note
   above, including assessment and plan. I would add:
   79 yo f with polycythemia [**Doctor First Name **] with acute pHTN, no clear cause. In ICU
   with RHC/dobutamine/lasix gtt- PA systolic 80
s initially and slightly
   down to 60-70's after sildenfail added
   Overnight:
   Dobutamine stopped: CI decreased to 2, SVR to 1268
   Lasix gtt stopped
   SBP 80-108/49-59
   80-89% on 6 ln.c.
   Exam: alert, conversant
   Lungs: few scattered rales
   CV: 2/6 SEM at LSB
   Abd: soft, nt, +bs
   Labs: BUN/Cr 30's/1.3 (unchanged), progressive increase in HCO3 to 35
   Imp: 79 y female with pHTN /cor pulmonale, no etiology identified with
   w/u.
   For pHTN, tolerated dobutamine d/c and lasix gtt discontinuation.
   Oxygen sats still low, reflective of the severity of pt
s pHTN and not
   expected to increase substantially though she feels improved with
   diuresis and sildenafil.
   Off lasix gtt, would change to IV lasix. If BP limits diuresis,  can
   decrease dose but increase frequency of lasix administration; Recent
   alkalosis suggests we may be approaching limits of how much further
   diuresis she will tolerate.
   For acute polycythemia, will restart hydroxyurea possibly tomorrow
   Hold nifedipine and hydralazine
   D/c cordis
   Social work involved-eventual plan is to transition to home hospice or
   rehab, as difficult living situation may preclude discharge home.
   Appears appropriate for floor transfer.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2106-11-20**] 11:44 ------